2122-03-09 07:27:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 MIDLINE - START [**2122-3-9**] 12:00 AM
   placed at [**Hospital 12**] Rehab on [**3-5**]
   -Overnight, pt put out 1L urine after getting 20 IV lasix
   History obtained from Patient
   Allergies:
   History obtained from PatientMorphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-9**] 01:45 AM
   Nafcillin - [**2122-3-9**] 02:29 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2122-3-9**] 01:25 AM
   Hydromorphone (Dilaudid) - [**2122-3-9**] 01:35 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt states only pain is from upper chest described as
   discomfort with mild pain on inspiration. States SOB improved. Feeling
   better
   Flowsheet Data as of  [**2122-3-9**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 68 (68 - 96) bpm
   BP: 129/51(71) {113/44(63) - 177/101(108)} mmHg
   RR: 24 (20 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 79.4 kg
             Total In:
             433 mL
   PO:
             180 mL
   TF:
   IVF:
   253 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,450 mL
   Urine:
   1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,017 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   half way up both L and R)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Normal
   [**Year (4 digits) 503**] / Radiology
   298 K/uL
   8.8 g/dL
   121 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.6 mEq/L
   14 mg/dL
   102 mEq/L
   137 mEq/L
   25.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2122-3-9**]  05:30 AM
   WBC
   7.9
   Hct
   25.0
   Plt
   298
   Cr
   1.3
   Glucose
   121
   Other [**Year (4 digits) **]: PT / PTT / INR:13.9/26.4/1.2, Ca++:8.6 mg/dL, Mg++:1.8
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multicfocal pneumonia.
   .
   #.Hypoxia: CXR with bilateral infiltrates. Possibly from multifocal
   pneumonia.  [**Month (only) 60**] also be from CHF, as BNP is elevated to 4985, crackles
   on exam bilaterally, mild pitting edema.  Echo from [**2119**] without
   evidence of CHF.
   -wean O2 NC as tolerated
   -will attempt to get last several CXRs from [**Hospital 12**] Rehab today
   -f/u cultures
   -nebs prn
   -if needed, Lasix PRN
   -cont Vanco/ zosyn/ azithro
   -TTE today to look for any new evidence of CHF
   .
   #.Hip Hemiarthroplasty: s/p washout [**2122-1-17**], on nafcillin, followed by
   ID as an outpatient.
   -Cont nafcilin for now
   -will FYI e-mail Dr. [**Last Name (STitle) 4453**].
   .
   #.CAD: s/p CABG and bioprosthetic AVR. ST depressions in V4-V5 under
   1mm.  Troponin is 0.2 and CK is 68. Likely demand ischemia in setting
   of tachycardia.
   -          continue with simvastatin, lisinopril, aspirin.
   -          Rpt CE
s added on to AM [**Last Name (LF) **], [**First Name3 (LF) 178**] f/u
   .
   #.Hypothyroidism: Will continue on levothyroxine
   .
   #.Hypertension: Will continue with amlodipine, lisinopril.
   .
   #.DM II: Insulin sliding scale.
   .
   #Pain: chronic left shoulder/arm pain. Will continue with lidocaine
   patch and acetominophen
   .
   ACCESS: right midline placed at [**Hospital 12**] Rehab within last 1 wk.
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], Daughter, [**Telephone/Fax (1) 8166**]
   ICU Care
   Nutrition:  clear liquids- ADAT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2122-3-9**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now- consider PM call out if able to wean off O2

2122-03-09 11:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory distress, hypoxemia
   24 Hour Events:
 MIDLINE - START [**2122-3-9**] 12:00 AM
   placed at [**Hospital 12**] Rehab on [**3-5**]
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-9**] 01:45 AM
   Vancomycin - [**2122-3-9**] 08:00 AM
   Nafcillin - [**2122-3-9**] 09:57 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2122-3-9**] 01:25 AM
   Hydromorphone (Dilaudid) - [**2122-3-9**] 01:35 AM
   Omeprazole (Prilosec) - [**2122-3-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-9**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-9**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 73 (67 - 96) bpm
   BP: 130/60(78) {113/44(63) - 177/101(108)} mmHg
   RR: 22 (20 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 79.4 kg
             Total In:
             1,015 mL
   PO:
             420 mL
   TF:
   IVF:
   595 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,660 mL
   Urine:
   1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -646 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   298 K/uL
   121 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.6 mEq/L
   14 mg/dL
   102 mEq/L
   137 mEq/L
   25.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2122-3-9**]  05:30 AM
   WBC
   7.9
   Hct
   25.0
   Plt
   298
   Cr
   1.3
   Glucose
   121
   Other labs: PT / PTT / INR:13.9/26.4/1.2, Ca++:8.6 mg/dL, Mg++:1.8
   mg/dL, PO4:3.9 mg/dL
   Imaging: CXR with bilateral nodular infiltrates R>L, upper lobe
   predominant, no effusions.
   Microbiology: No new data.  History of coag neg staph from hip
   wash-out.
   Assessment and Plan
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multicfocal pneumonia but BNP of 5000 raises concerns for
   pulmonary edema.  Concerns for decreased mental status at rehab [**2-16**]
   medications.
   #Hypoxia: CXR with bilateral infiltrates c/w PNA (?aspiration) vs
   pulmonary edema. Nodular appearing
   - vanc/azithro/zosyn
   - lasix prn
   - Urine legionella antigen
   - TTE
   - Sputum culture if possible
   - Wean O2, start nebs too
   - Films from rehab
   #Hip Hemiarthroplasty: s/p washout [**2122-1-17**], on nafcillin, followed by ID
   as an outpatient.  Will continue on nafcillin.
   - Nafcillin to complete pre-determined course
   # CAD: S/p CABG and bioprosthetic AVR. Demand ischemia s/p r/o.
   - Continue with simvastatin, lisinopril, aspirin
   - TTE as above to r/o valvular infection
   Other issues per resident note.
   ICU Care
   Nutrition:
   Advance as tolerated.
   Glycemic Control:
   Lines:
   Midline - [**2122-3-9**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if Sats stable later today and nursing
   needs decrease
   Total time spent: 35 minutes

2122-03-10 07:58:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-3-9**] 03:00 PM
   - increasing O2 requirement overnight from 5L->face mask in setting of
   increasing confusion. 7.50/33/57.
   - ECHO read not back but appears to show PA htn
   - OSH CXR being mailed to [**Hospital Unit Name 44**] by [**Doctor First Name 8184**] at [**Hospital 12**] Rehab
   - 7a- pt with episode of desaturation to mid 80s on face mask- SBP
   180s-200s. Likely had flash pulmonary edema. CXR with diffuse bilat
   infiltrates. Stabilized after 20 IV lasix, SL NTG x1, NTG gtt briefly,
   incr O2. EKG with st depressions in lateral leads.  Pt very tachypneaic
   to 30
s, HR to 130
s during this episode. Did have sm amt emesis during
   this time (after having gotten K repletion PO earlier in morning) and
   got Zofran x1.
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-9**] 07:55 PM
   Nafcillin - [**2122-3-9**] 10:04 PM
   Infusions:
   Nitroglycerin - 5 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2122-3-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-10**] 12:23 AM
   Furosemide (Lasix) - [**2122-3-10**] 07:15 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt states she is anxious and SOB with chest
   discomfort. Also nauseated and vomitted after K repletion PO. Having
   watery diarrhea this am
   Flowsheet Data as of  [**2122-3-10**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37
C (98.6
   HR: 102 (67 - 102) bpm
   BP: 180/74(102) {114/42(60) - 180/90(102)} mmHg
   RR: 36 (18 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 79.4 kg
             Total In:
                                                                  1,782 mL
                                                                    103 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                  1,122 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  2,262 mL
                                                                    860 mL
   Urine:
                                                                  2,262 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -480 mL
                                                                   -757 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.49/33/147/24/3
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat all way up)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   334 K/uL
   8.7 g/dL
   121 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.1 mEq/L
   16 mg/dL
   100 mEq/L
   137 mEq/L
   25.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2122-3-9**]  05:30 AM
                             [**2122-3-10**]  02:03 AM
                             [**2122-3-10**]  04:22 AM
                             [**2122-3-10**]  07:27 AM
   WBC
   7.9
   8.8
   Hct
   25.0
   25.6
   Plt
   298
   334
   Cr
   1.3
   1.3
   TCO2
   27
   26
   Glucose
   121
   121
   Other labs: PT / PTT / INR:14.8/31.3/1.3, Lactic Acid:1.2 mmol/L,
   LDH:422 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multifocal pneumonia.
   .
   #.Hypoxia: CXR with bilateral infiltrates. Possibly from multifocal
   pneumonia.  [**Month (only) 60**] also be from CHF, as BNP is elevated to 4985, crackles
   on exam bilaterally, mild pitting edema.  Echo from [**2119**] without
   evidence of CHF.  Echo from [**3-9**] pending. Likely episode of flash edema
   today.
   -wean O2 if tolerated
   -CXR from [**Hospital 12**] Rehab apparently coming via mail
   -f/u cultures
   -nebs prn
   -Lasix today (20IV x2 given already) for 2L neg.  Check evening lytes.
   -cont Vanco/ zosyn. Azithro d/c
d- does not look to be at risk for
   .
   #.Hip Hemiarthroplasty: s/p washout [**2122-1-17**], on nafcillin, followed by
   ID as an outpatient.
   -Cont nafcilin for now
   -will FYI e-mail Dr. [**Last Name (STitle) 4453**].
   .
   #.CAD: s/p CABG and bioprosthetic AVR. ST depressions in V4-V5 under
   1mm.  Troponin is 0.2 and CK is 68. Likely demand ischemia in setting
   of tachycardia- both on admission and this am during episode of likely
   flash pulmonary edema.
   -          continue with simvastatin, lisinopril, aspirin.
   -          metoprolol today to control HR <80 ideally
   -f/u final read echo from yesterday
   -cards consulted- f/u recs
   .
   #.Hypothyroidism: Will continue on levothyroxine
   .
   #.Hypertension: Will continue with amlodipine, lisinopril.
   .
   #.DM II: Insulin sliding scale.
   .
   #Pain: chronic left shoulder/arm pain. Will continue with lidocaine
   patch and acetominophen
   .
   ACCESS: right midline placed at [**Hospital 12**] Rehab within last 1 wk.
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], Daughter, [**Telephone/Fax (1) 8166**]
   ICU Care
   Nutrition: clears as tolerated.
   Glycemic Control:  Insulin sliding scale
   Lines:
   Midline - [**2122-3-9**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-03-10 08:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Hypoxemia, resp distress
   24 Hour Events:
   TTE
   Increased O2 requirement overnight a/w HTN and tachycardia
   Treated with NTG gtt and lasix
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-9**] 07:55 PM
   Nafcillin - [**2122-3-9**] 10:04 PM
   Vancomycin - [**2122-3-10**] 08:36 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-10**] 12:23 AM
   Furosemide (Lasix) - [**2122-3-10**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-10**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.2
   HR: 99 (73 - 102) bpm
   BP: 118/87(92) {114/42(60) - 180/90(102)} mmHg
   RR: 35 (18 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 79.4 kg
             Total In:
                                                                  1,782 mL
                                                                    334 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                  1,122 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  2,262 mL
                                                                  1,170 mL
   Urine:
                                                                  2,262 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -480 mL
                                                                   -836 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.49/33/147/24/3
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral, lower lobe
   predominent)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   334 K/uL
   121 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.3 mEq/L
   16 mg/dL
   100 mEq/L
   137 mEq/L
   25.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2122-3-9**]  05:30 AM
                             [**2122-3-10**]  02:03 AM
                             [**2122-3-10**]  04:22 AM
                             [**2122-3-10**]  07:27 AM
   WBC
   7.9
   8.8
   Hct
   25.0
   25.6
   Plt
   298
   334
   Cr
   1.3
   1.3
   TCO2
   27
   26
   Glucose
   121
   121
   Other labs: PT / PTT / INR:14.8/31.3/1.3, CK / CKMB / Troponin-T:50//,
   Lactic Acid:1.2 mmol/L, LDH:422 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Fluid analysis / Other labs: Urine legionella negative.
   Imaging: CXR - Increasing infiltrates, now lower lobe predominant, but
   still diffuse.
   TTE - Formal read pending - LVH and moderate pHTN
   Microbiology: None
   ECG: No acute changes. Tachycardic.
   Assessment and Plan
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multicfocal pneumonia but BNP of 5000 raises concerns for
   pulmonary edema.  Concerns for decreased mental status at rehab [**2-16**]
   medications.
   #Hypoxia: CXR with bilateral infiltrates - now appearing to be most
   consistent with pulmonary edema given last night's events.  Cannot r/o
   aspiration event given decreased mental status at rehab.
   - vanc/zosyn - D/c azithro, emeperic steroids for [**Doctor Last Name **] if needed given
   high LDH/ pulm infiltrates. ? PCP but not the appropriate host for this
   - Lasix to make I/O balance negative
   - Tightly control BP/HR with beta blockade
   - F/U TTE
   - Wean O2
   - Films from rehab/PCP
   #Hip Hemiarthroplasty: s/p washout [**2122-1-17**], on nafcillin, followed by ID
   as an outpatient.
   - Nafcillin to complete pre-determined course
   # CAD: S/p CABG and bioprosthetic AVR.
   - Continue with simvastatin, lisinopril, aspirin
   - Beta blocker, d/c norvasc
   - Cardiology consult
   - Follow-up cardiac enzymes
   - Consider transfusion with Hct goal of 27 if oxygen requirement
   decreased later today
   # Rising LDH: Could be consistent with resolving cardiac ischemia,
   anemia, or multiple other processes.
   - Follow for now
   Other issues per resident note.
   ICU Care
   Nutrition:
   NPO until acute flash pulmonary edema resolved
   Glycemic Control:
   Lines:
   Midline - [**2122-3-9**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2122-03-11 07:37:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 FEVER - 101.7
F - [**2122-3-10**] 03:00 PM
   -? Flashed in AM with tachypnea, desaturations, and increased work of
   breathing
   - Continued to have dyspnea and discomfort/nausea for much of the
   earlier part of the day and got ABG around 4:00 that showed hypoxemia
   but no retention/hypercarbia
   -Managed to get to sleep and when awoke later feeling considerably
   better with better color and no further nausea
   -Continued to desat if removed face tent
   -Seen by cards who recommended diuresis (thought diastolic failure +
   pneumonia/[**Doctor Last Name **])
   -Final echo read: LVH w/ preserved EF, PA HTN, diastolic dysfxn
   -Started on metoprolol IV w/ good rate control
   -Received furosemide 20 mg IV *3 w/ good effect
   -Febrile in afternoon and cultured
   -Nursing concerned re: possible phlebitis around midline
   -Received steroid course for possible [**Doctor Last Name **]
   -ID consult ordered for [**2122-3-11**]- on their advice d/c'd naf b/c double
   Beta lactams
   -Had worsening of nausea and anxiety after midnight and received
   lorazepam 0.25 mg PO *1
   History obtained from Patient
   Allergies:
   History obtained from PatientMorphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-10**] 08:36 AM
   Nafcillin - [**2122-3-10**] 02:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-11**] 02:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2122-3-10**] 03:32 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Respiratory: Dyspnea
   Gastrointestinal: Nausea, Diarrhea
   Flowsheet Data as of  [**2122-3-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.4
C (97.5
   HR: 92 (73 - 108) bpm
   BP: 137/61(79) {114/35(57) - 147/99(107)} mmHg
   RR: 43 (16 - 44) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 79.4 kg
             Total In:
                                                                  1,545 mL
                                                                    218 mL
   PO:
             TF:
   IVF:
                                                                  1,545 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                    545 mL
   Urine:
                                                                  3,230 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,685 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   RR (Spontaneous): 50
   FiO2: 100%
   SpO2: 98%
   ABG: 7.44/38/118/22/2
   Ve: 16.6 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   362 K/uL
   8.6 g/dL
   125 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.0 mEq/L
   19 mg/dL
   99 mEq/L
   135 mEq/L
   24.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2122-3-10**]  02:03 AM
                             [**2122-3-10**]  04:22 AM
                             [**2122-3-10**]  07:27 AM
                             [**2122-3-10**]  07:43 AM
                             [**2122-3-10**]  03:31 PM
                             [**2122-3-10**]  03:58 PM
                             [**2122-3-10**]  04:33 PM
                             [**2122-3-11**]  03:48 AM
                             [**2122-3-11**]  04:48 AM
                             [**2122-3-11**]  06:33 AM
   WBC
   8.8
   10.5
   Hct
   25.6
   29
   27.7
   24.9
   Plt
   334
   362
   Cr
   1.3
   1.3
   1.4
   TropT
   0.02
   0.02
   TCO2
   27
   26
   29
   26
   27
   Glucose
   121
   129
   125
   Other labs: PT / PTT / INR:15.1/30.4/1.3, CK / CKMB /
   Troponin-T:47/2/0.02, ALT / AST:[**7-2**], Alk Phos / T Bili:53/0.9,
   Differential-Neuts:89.0 %, Lymph:7.1 %, Mono:3.4 %, Eos:0.3 %, Lactic
   Acid:1.3 mmol/L, LDH:422 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multifocal pneumonia.
   #.Hypoxia: CXR with bilateral infiltrates not dramaticallyl improved
   with 2L diuresis yesterday.  Primary concern is for [**Doctor Last Name **] with unclear
   primary insult though suspicion for multifocal pneumonia.  Patient also
   w/ diastolic CHF and possible component of volume overload though not a
   large improvement with treatment of this.   Other concerns would be for
   eosinophilic pneumonitis (given eos at presentation) and ground glass
   earlier this year on CT scan.  Patient started on steroids yesterday,
   which should help any underlying immunologic process.  High index of
   suspicion for infectious etiologies given fever but well covered for
   typical pathogens and no risk factors for immunosuppression or
   atypicals like PCP or mycobacteria.  Ideally would attempt to obtain
   tissue or material from lung with BAL and/or imaging but precarious
   respiratory status unlikely to tolerate.
   -wean O2 if tolerated
   -CXR from [**Hospital 12**] Rehab apparently coming via mail
   -f/u cultures
   -obtain induced sputums
   -nebs prn
   -cont Vanco/ zosyn.  ID c/s today.
   -Given recent addition of steroids will continue to monitor for the
   moment.  If respiratory status continues to decline would have low
   index to intubate this afternoon to prevent tiring and allow further
   diagnostic workup
   -2L negative and reports feeling dry this AM so hold diuresis unless
   objective signs of volume overload.
   #.Hip Hemiarthroplasty: s/p washout [**2122-1-17**], on nafcillin, followed by
   ID as an outpatient.
   -Nafcillin stopped as MSSA should be well covered by Pip-tazo and risk
   of toxicity w/ double B lactam
   -[**Doctor Last Name 4453**] aware and has seen patient
   .#CAD: s/p CABG and bioprosthetic AVR. ST depressions in V4-V5 under
   1mm.  Troponin is 0.2 and CK is 68. Likely demand ischemia in setting
   of tachycardia- both on admission and this am during episode of likely
   flash pulmonary edema.  Cardiology has seen the patient and has low
   index of suspicion for acute coronary syndrome.
   -    continue with simvastatin, lisinopril, aspirin.
   -   metoprolol today to control HR <80 ideally, uptitrated once and
   continue to increase dose as tolerated
   -f/u final read echo from yesterday
   #.Hypothyroidism: Will continue on levothyroxine
   #.Hypertension: Will continue with amlodipine, lisinopril.
   #.DM II: Insulin sliding scale.
   #Pain: chronic left shoulder/arm pain. Will continue with lidocaine
   patch and acetominophen
   ACCESS: midline d/c
d for phlebitis, will place A-line and attempt to
   get PICC this afternoon if remains afebrile
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], Daughter, [**Telephone/Fax (1) 8166**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2122-3-9**] 12:00 AM
   20 Gauge - [**2122-3-10**] 07:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-03-12 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2122-3-11**] 09:29 AM
   placed at [**Hospital 12**] Rehab on [**3-5**]
 PICC LINE - START [**2122-3-11**] 01:51 PM
   double lume PICC inserted.
 NASAL SWAB - At [**2122-3-11**] 04:57 PM
   nasal wash for RSV, Influenza
 INVASIVE VENTILATION - START [**2122-3-11**] 05:35 PM
 BRONCHOSCOPY - At [**2122-3-11**] 05:54 PM
   bronchial lavage done for sputum specimen.
 MULTI LUMEN - START [**2122-3-11**] 07:15 PM
 ARTERIAL LINE - START [**2122-3-11**] 09:18 PM
   -Given Lasix 20 IV x1 in afternoon for tachypnea, low O2 sat on 100%
   O2.
   -Bronched  following intubation and this showed DAH
   -A line and RIJ place. Put on fent/versed for sedation
   -After intubation, neo started but weaned off by 10pm, needed to be
   restarted this AM
   -PICC placed in afternoon in axilla on CXR but later in day, in RA on
   CXR. Using CVL instead for now.
   -Briefly on droplet precautions while influenza pending but came back
   negative.
   -Bactrim started to cover for possible PCP [**Name Initial (PRE) 1035**].
   -[**Doctor First Name 1205**], anti GBM and ANCA pending for possibility of vasculitis given DAH
   on bronch
   - Haptoglobin >200 ruling out hemolysis
   - Cx NGTD, C diff neg x2
   - B glucan and galactomannan sent
   -ESR 111
   -Oseltamivir and Rimanditine  started for possible viral infxn
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Nafcillin - [**2122-3-10**] 02:48 PM
   Vancomycin - [**2122-3-11**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-11**] 08:14 PM
   Bactrim (SMX/TMP) - [**2122-3-12**] 12:35 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2122-3-11**] 05:40 PM
   Midazolam (Versed) - [**2122-3-11**] 06:31 PM
   Fentanyl - [**2122-3-11**] 06:53 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-12**] 12:00 AM
   Furosemide (Lasix) - [**2122-3-12**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-12**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 61 (58 - 119) bpm
   BP: 123/46(71) {97/43(59) - 157/58(92)} mmHg
   RR: 19 (16 - 44) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 79.4 kg
   Height: 63 Inch
    CVP: 14 (11 - 14)mmHg
   Total In:
                                                                  1,851 mL
                                                                  1,779 mL
   PO:
                                                                    220 mL
   TF:
   IVF:
                                                                  1,551 mL
                                                                  1,779 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    132 mL
   Urine:
                                                                  1,550 mL
                                                                    132 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    301 mL
                                                                  1,647 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/40/113/25/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 141
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Normal
   Labs / Radiology
   361 K/uL
   7.2 g/dL
   134 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   31 mg/dL
   101 mEq/L
   137 mEq/L
   20.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2122-3-10**]  03:31 PM
                             [**2122-3-10**]  03:58 PM
                             [**2122-3-10**]  04:33 PM
                             [**2122-3-11**]  03:48 AM
                             [**2122-3-11**]  04:48 AM
                             [**2122-3-11**]  06:33 AM
                             [**2122-3-11**]  04:31 PM
                             [**2122-3-12**]  12:35 AM
                             [**2122-3-12**]  04:48 AM
                             [**2122-3-12**]  05:04 AM
   WBC
   10.5
   9.8
   Hct
   29
   27.7
   24.9
   20.8
   Plt
   362
   361
   Cr
   1.3
   1.4
   1.6
   TropT
   0.02
   <0.01
   TCO2
   29
   26
   27
   27
   26
   26
   Glucose
   129
   125
   134
   Other labs: PT / PTT / INR:15.4/34.4/1.4, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:[**7-2**], Alk Phos / T Bili:53/0.9,
   Differential-Neuts:89.2 %, Lymph:7.0 %, Mono:3.5 %, Eos:0.3 %, Lactic
   Acid:1.1 mmol/L, LDH:591 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.1
   mg/dL
   Microbiology: Respiratory Viral Screen: Negative
   C. diff *2: Negative
   BAL fluid: 1+ PMN's no organisms
   Polys: 66, Bands: 1, Lymphs: 8, Monos: 15, Eos: 1. Macro: 8, Other: 1
   Assessment and Plan
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multifocal pneumonia.
   #Hypoxia/ Diffuse Alveolar Hemmorrhage: Patient has persistent
   bilateral diffuse pulmonary infiltrates and BAL with large amount of
   heme c/w DAH.  Etiology is still unclear though patient is being
   broadly covered for typical pneumonia, atypical pneumonia, PCP
   pneumonia, and influenza with no organism isolated on cultures.  We
   will continue full antimicrobial spectrum given the severity of her
   process pending a clear diagnosis of [**Last Name **] problem or final culture
   results.  Other possible primary insults would include a auto-immune
   mediated vasculitis.  ANCA and GBM are pending.  The patient has now
   received two days of high dose corticosteroids without apparent
   improvement though it is still early in the course.  Finally, the
   patient has known diastolic dysfxn making her CVP difficult to
   interpret though she may have an element of volume overload.
   Nevertheless, given marginal blood pressures this AM we will aim for
   net 0 fluid balance for the day.
   -wean O2 as tolerated and increase PEEP as needed
   -CT Chest w/o contrast today to look for focality or other morphologic
   clues to etiologic process, also will check CT sinus to evaluate for
   sinusitis, which could suggest Wegners
   -f/u cultures, ANCA, GBM
   -Induced sputums
   -cont Vanco/pip-tazo/TMP-sulfa/oseltamavir/rimantadine.
   -continue steroids
   -aim for equal fluid balance
   -c/s thoracic [**Doctor First Name 458**] re VAT
s for diagnostic purposes should other
   work-up be unrevealing and need to consider cytotoxic therapy
   #Hypotension/Shock: Patient went from hypertensive to hypotensive
   yesterday with bronchoscopy and sedation.  Presumed at the time this
   was likely to be due to sedating meds and given concern about
   tachycardia in the context of diastolic dysfunction the patient was
   started on phenylephrine as a pressor after being resuscitated to a CVP
   of 18.  Presumed etiology is med effect vs vasodilatory shock (septic
   vs cytokine storm).  Currently weaned off pressors.
   -2 units of blood for anemia but should assist with fluid resuscitation
   as well
   -norepinephrine as needed to maintain MAP > 60 as long as HR <80
   -Hold antihypertensives though would consider restarting low dose
   metoprolol for tachycardia
   -Continue broad spectrum abx
   -Keep pt euvolemic
   #Anemia: Patient with 4 pt Hct drop yesterday.  Hemolysis markers have
   been negative so far.  Presumably this is due to DAH.
   -2 units of blood with furosemide in between
   -check smear
   -recheck Hct Q6hrs
   #Hip Hemiarthroplasty
   -Nafcillin stopped as MSSA should be well covered by Pip-tazo and risk
   of toxicity w/ double B lactam
   -[**Doctor Last Name 4453**] aware and has seen patient
    #CAD: s/p CABG and bioprosthetic AVR. ST depressions in V4-V5 under
   1mm.  Troponin is 0.2 and CK is 68. Likely demand ischemia in setting
   of tachycardia- both on admission and this am during episode of likely
   flash pulmonary edema.  Cardiology has seen the patient and has low
   index of suspicion for acute coronary syndrome.
   -    continue with simvastatin, hold  lisinopril and aspirin
   -   holding metoprolol for hypotension but consider restarting for rate
   >80
    #.Hypothyroidism: Will continue on levothyroxine
    #.Hypertension: Holding amlodipine and lisinopril
    #Pain: chronic left shoulder/arm pain. Will continue with lidocaine
   patch and acetominophen
    EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], Daughter, [**Telephone/Fax (1) 8166**]
   ICU Care
   Nutrition:
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2122-3-11**] 10:39 AM
   PICC Line - [**2122-3-11**] 01:51 PM
   Multi Lumen - [**2122-3-11**] 07:15 PM
   Arterial Line - [**2122-3-11**] 09:18 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 Blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-03-14 07:40:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 EKG - At [**2122-3-13**] 07:56 PM
   -Multiple attempts to salvage PICC ultimately failed, will need to d/c
   vs change over guidewire in AM
   - Tests remained pending
   - weaned to 40% FiO2 w/ reasonable oxygenation and ventilation
   -Seen by renal c/s who think ATN, checking AM vanc
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2122-3-12**] 10:20 AM
   Azithromycin - [**2122-3-12**] 03:55 PM
   Vancomycin - [**2122-3-13**] 08:13 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-14**] 02:07 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 130 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-13**] 10:13 AM
   Midazolam (Versed) - [**2122-3-13**] 04:35 PM
   Fentanyl - [**2122-3-13**] 04:35 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:  unable to obtain [**2-16**] intubation, sedation
   Flowsheet Data as of  [**2122-3-14**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 62 (47 - 77) bpm
   BP: 144/54(83) {102/41(60) - 156/63(97)} mmHg
   RR: 13 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
    CVP: 15 (12 - 20)mmHg
   Total In:
                                                                  1,725 mL
                                                                    437 mL
   PO:
   TF:
                                                                    211 mL
                                                                    124 mL
   IVF:
                                                                  1,269 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  1,511 mL
                                                                    600 mL
   Urine:
                                                                  1,511 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    214 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/38/137/24/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   334 K/uL
   9.2 g/dL
   152 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   46 mg/dL
   106 mEq/L
   139 mEq/L
   26.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2122-3-12**]  09:32 PM
                             [**2122-3-12**]  09:45 PM
                             [**2122-3-13**]  03:37 AM
                             [**2122-3-13**]  03:59 AM
                             [**2122-3-13**]  05:11 AM
                             [**2122-3-13**]  09:42 AM
                             [**2122-3-13**]  03:25 PM
                             [**2122-3-13**]  03:40 PM
                             [**2122-3-14**]  04:47 AM
                             [**2122-3-14**]  05:05 AM
   WBC
   9.3
   10.0
   11.1
   8.5
   Hct
   26.8
   28.2
   28.6
   26.7
   Plt
   335
   379
   364
   334
   Cr
   1.6
   1.8
   1.9
   1.9
   TCO2
   24
   22
   23
   22
   24
   24
   Glucose
   142
   161
   147
   152
   Other labs: PT / PTT / INR:13.2/28.8/1.1, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:5.4 %, Eos:0.3 %, Lactic
   Acid:1.1 mmol/L, LDH:523 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multifocal pneumonia.
    #Hypoxia/ Diffuse Alveolar Hemmorrhage: Patient with DAH of unclear
   etiology though consideration to immune mediated vs post infectious
   diffuse alveolar damage vs bland congestion.  Multiple diagnostic tests
   pending searching for an etiology.  ANCA negativity makes Wegner
s less
   likely.  Respiratory status stable to slightly improved and weaning to
   decreased vent settings. Of note, CRP came back >300, [**Doctor First Name 1205**] neg,
   galactomannan neg
   -Continue vancomycin and pipercillin/tazobactam. Plan to cont Zosyn for
   10 D (today is day 7)
   -oseltamavir and rimantidine d/c
d per ID recs
   -high dose glucocorticoids through today then plan rapid taper
   -f/u cultures, anti-GBM, cryoglobulins
   -Wean O2 as tolerated but no attempts to wean off vent today given
   still precarious status.
    #Hypotension/Shock: Patient weaned off pressors and BP
s are stable.
   Most likely due to SIRS/sepsis and/or sedation.
   -Monitor CVP
   -attempting gentle diuresis with furosemide drip
   #Acute Kidney Injury: Cr to 1.9 today from 1.2 on admission.  Also
   there are RBC
s in UA perhaps suggesting more active sediment.
   Possible this could be part of systemic vasculitic process though
   timing continues to be odd.
   -Renal C/S thinks likely ATN . Will monitor UOP closely in Lasix gtt
    #Anemia: Hct slightly down to 26 today.  No signs of hemolysis.
   Recheck this PM.
    #Hip Hemiarthroplasty
   -Nafcillin stopped as MSSA should be well covered by Pip-tazo and risk
   of toxicity w/ double B lactam. Currently covered by Vanco
   -[**Doctor Last Name 4453**] aware and has seen patient
    #CAD: s/p CABG and bioprosthetic AVR. ST depressions in V4-V5 under
   1mm.  Troponin is 0.2 and CK is 68. Likely demand ischemia in setting
   of tachycardia- both on admission and this am during episode of likely
   flash pulmonary edema.  Cardiology has seen the patient and has low
   index of suspicion for acute coronary syndrome.
   -    continue with simvastatin, hold  lisinopril and aspirin
   -   holding metoprolol for hypotension but consider restarting for rate
   >80
    #.Hypothyroidism: Will continue on levothyroxine
    #.Hypertension: Holding amlodipine and lisinopril
    #Pain: chronic left shoulder/arm pain. Will continue with lidocaine
   patch and acetominophen
    EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], Daughter, [**Telephone/Fax (1) 8166**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2122-3-14**] 01:03 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2122-3-11**] 10:39 AM
   PICC Line - [**2122-3-11**] 01:51 PM
   Multi Lumen - [**2122-3-11**] 07:15 PM
   Arterial Line - [**2122-3-11**] 09:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-03-14 08:29:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI: 80 yr old female with respiratory failure
   24 Hour Events:
 EKG - At [**2122-3-13**] 07:56 PM
   Lost her PICC, got CVL
   Weaned FIO2 to 40%
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2122-3-12**] 10:20 AM
   Azithromycin - [**2122-3-12**] 03:55 PM
   Vancomycin - [**2122-3-13**] 08:13 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-14**] 02:07 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Fentanyl - 130 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-13**] 10:13 AM
   Midazolam (Versed) - [**2122-3-13**] 04:35 PM
   Fentanyl - [**2122-3-13**] 04:35 PM
   Other medications:
   Insulin iron, Vut d. ASA simva, MethylPred 250 IV q6, Cacarb VITd,
   Iprotrop, Reglan,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-14**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 62 (47 - 77) bpm
   BP: 144/54(83) {103/41(60) - 156/63(97)} mmHg
   RR: 13 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
   CVP: 15 (12 - 20)mmHg
   Total In:
                                                                  1,725 mL
                                                                    512 mL
   PO:
   TF:
                                                                    211 mL
                                                                    166 mL
   IVF:
                                                                  1,269 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  1,511 mL
                                                                    600 mL
   Urine:
                                                                  1,511 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    214 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/38/137/24/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 343
   Physical Examination
   Gen: intubated and sedated
   CV: RR
   Chest: rhonchourous
   Abd: distended soft Nt +BS
   Ext: 1+ edema
   Neuro: wakes to voice
   Labs / Radiology
   9.2 g/dL
   334 K/uL
   152 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   46 mg/dL
   106 mEq/L
   139 mEq/L
   26.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2122-3-12**]  09:32 PM
                             [**2122-3-12**]  09:45 PM
                             [**2122-3-13**]  03:37 AM
                             [**2122-3-13**]  03:59 AM
                             [**2122-3-13**]  05:11 AM
                             [**2122-3-13**]  09:42 AM
                             [**2122-3-13**]  03:25 PM
                             [**2122-3-13**]  03:40 PM
                             [**2122-3-14**]  04:47 AM
                             [**2122-3-14**]  05:05 AM
   WBC
   9.3
   10.0
   11.1
   8.5
   Hct
   26.8
   28.2
   28.6
   26.7
   Plt
   335
   379
   364
   334
   Cr
   1.6
   1.8
   1.9
   1.9
   TCO2
   24
   22
   23
   22
   24
   24
   Glucose
   142
   161
   147
   152
   Other labs: PT / PTT / INR:13.2/28.8/1.1, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:84.5 %, Lymph:8.1 %, Mono:5.4 %, Eos:0.3 %, Lactic
   Acid:1.1 mmol/L, LDH:523 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   1.       Respiratory Failure: Etiology is unclear infectious with
   component of DAH- has improved with high dose steroids and broad
   spectrum ABX
 no culture data to date. Will switch to Prednisone 60 in
   the AM. After 3 day 1 gram per day load for presumed capillaritis. In
   terms of vent progress given good oxygenation we will try to lower PEEP
   and switch to PSV
   2.       Hip Infection: on Vanco
 ID following
   3.       Renal Failure: Ap[predicate consultation
 likely ATN, no
   acute indication for HD
 stable Cr adequate UOP, serum Bicarb holding
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition:  Fibersource HN (Full) - [**2122-3-14**] 01:03 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-3-11**] 10:39 AM
   PICC Line - [**2122-3-11**] 01:51 PM
 take out
   Multi Lumen - [**2122-3-11**] 07:15 PM
   Arterial Line - [**2122-3-11**] 09:18 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Communication:  with family
   Code status: FULL
   Disposition : ICU
   Total time spent: 40

2122-03-15 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 80 y.o. woman presenting with fever, hypoxia, and
   dyspnea, with CXR worrisome for multifocal pneumonia.
   24 Hour Events:
   [**2122-3-13**]
   -Multiple attempts to salvage PICC ultimately failed, will need to d/c
   vs change over guidewire in AM
   - Tests remained pending
   - weaned to 40% FiO2 w/ reasonable oxygenation and ventilation
   -Seen by renal c/s who think ATN, checking AM vanc
   ________________________________________________________
   [**2122-3-14**]
   - plan to wean steroids tomorrow
   - by 9pm. Running even. Will titrate up lasix gtt as tolerated
   -changed vanco to Q 48 with decr renal fxn
   - keeping PICC for now. Will try to fix it to use later
   - d/c'd antivirals
   - weaned to CPAP 10/5 in afternoon with ABG 7.36/43/110. Should think
   about possible extubation in am
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2122-3-12**] 10:20 AM
   Azithromycin - [**2122-3-12**] 03:55 PM
   Vancomycin - [**2122-3-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-15**] 02:00 AM
   Infusions:
   Fentanyl - 140 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-14**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-15**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 70 (48 - 74) bpm
   BP: 147/62(93) {110/44(64) - 157/82(94)} mmHg
   RR: 15 (8 - 16) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
    CVP: 19 (10 - 19)mmHg
   Total In:
                                                                  2,060 mL
                                                                    342 mL
   PO:
   TF:
                                                                    504 mL
   IVF:
                                                                  1,476 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    870 mL
   Urine:
                                                                  2,175 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                   -528 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 531 (531 - 680) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 22 cmH2O
   SpO2: 93%
   ABG: 7.40/42/72/24/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   394 K/uL
   10.2 g/dL
   183 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   49 mg/dL
   103 mEq/L
   141 mEq/L
   30.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2122-3-13**]  09:42 AM
                             [**2122-3-13**]  03:25 PM
                             [**2122-3-13**]  03:40 PM
                             [**2122-3-14**]  04:47 AM
                             [**2122-3-14**]  05:05 AM
                             [**2122-3-14**]  03:11 PM
                             [**2122-3-14**]  08:45 PM
                             [**2122-3-14**]  08:55 PM
                             [**2122-3-15**]  05:00 AM
                             [**2122-3-15**]  05:33 AM
   WBC
   11.1
   8.5
   10.0
   Hct
   28.6
   26.7
   26.7
   30.2
   Plt
   364
   334
   394
   Cr
   1.9
   1.9
   1.9
   TCO2
   22
   24
   24
   25
   25
   27
   Glucose
   147
   152
   183
   Other labs: PT / PTT / INR:13.9/25.8/1.2, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:87.0 %, Lymph:8.4 %, Mono:4.3 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, LDH:523 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multifocal pneumonia.
    #Hypoxia/ Diffuse Alveolar Hemmorrhage: Patient with DAH of unclear
   etiology though consideration to immune mediated vs post infectious
   diffuse alveolar damage vs bland congestion.  Multiple diagnostic tests
   pending searching for an etiology.  ANCA negativity makes Wegner
s less
   likely.  Respiratory status stable to slightly improved and weaning to
   decreased vent settings. Of note, CRP came back >300, [**Doctor First Name 1205**] neg,
   galactomannan neg
   -Continue vancomycin (d1=[**3-8**], today is day 8)
   -will d/c pipercillin/tazobactam today per ID reccs
   -oseltamavir and rimantidine d/c
d per ID reccs
   -tapering down high dose glucocorticoids rapidly, particularly given
   patient
s agitation and ?steroid psychosis
   -f/u cultures, anti-GBM, cryoglobulins
   -will attempt to extubate
    #Hypotension/Shock: Patient weaned off pressors and BP
s are stable.
   Most likely due to SIRS/sepsis and/or sedation.
   -Monitor CVP
   -attempting gentle diuresis with furosemide drip
   #Acute Kidney Injury: Cr to 1.9 today from 1.2 on admission.  Also
   there are RBC
s in UA perhaps suggesting more active sediment.
   Possible this could be part of systemic vasculitic process though
   timing continues to be odd.
   -Renal C/S thinks likely ATN and anticpate return of baseline renal
   function . Will monitor UOP closely in Lasix gtt
   #Hip Hemiarthroplasty:  s/p washout [**2122-1-17**] and was on nafcillin at
   home.
   -Nafcillin stopped as MSSA should be well covered by vanc.
   -ID has signed off but request they be re-contact[**Name (NI) **] near time of
   discharge as would prefer to send patient home on po antibiotic regimen
   -Dr. [**Last Name (STitle) 4453**] aware and has seen patient
   #CAD: s/p CABG and bioprosthetic AVR. ST depressions in V4-V5 under
   1mm.  Troponin is 0.2 and CK is 68. Likely demand ischemia in setting
   of tachycardia- both on admission and this am during episode of likely
   flash pulmonary edema.  Cardiology has seen the patient and has low
   index of suspicion for acute coronary syndrome.
   -continue with simvastatin, hold  lisinopril and aspirin
   -holding metoprolol for hypotension but consider restarting for rate
   >80
   #.Hypothyroidism: Will continue on levothyroxine
   #.Hypertension: Holding lisinopril, will restart amlodipine.
   #Pain: chronic left shoulder/arm pain. Will continue with lidocaine
   patch and acetominophen
    EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], Daughter, [**Telephone/Fax (1) 8166**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-3-11**] 10:39 AM
   PICC Line - [**2122-3-11**] 01:51 PM
   Multi Lumen - [**2122-3-11**] 07:15 PM
   Arterial Line - [**2122-3-11**] 09:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-15 10:18:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Switched to SBT today - initially was doing well 7.38/44/87 but on low
   sedation became agitated and HTN
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2122-3-12**] 10:20 AM
   Azithromycin - [**2122-3-12**] 03:55 PM
   Vancomycin - [**2122-3-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-15**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-15**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-15**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 63 (48 - 74) bpm
   BP: 135/55(83) {115/48(72) - 150/82(94)} mmHg
   RR: 10 (8 - 16) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
   CVP: 15 (10 - 19)mmHg
   Total In:
                                                                  2,060 mL
                                                                    608 mL
   PO:
   TF:
                                                                    504 mL
   IVF:
                                                                  1,476 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                  1,735 mL
   Urine:
                                                                  2,175 mL
                                                                  1,735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                 -1,127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 640 (531 - 680) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   SpO2: 92%
   ABG: 7.38/46/86.[**Numeric Identifier 96**]/24/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen: intubated and sedated but intermittently agitated
   CV: RR
   Chest: rhonchourous
   Abd: distended soft Nt +BS
   Ext: 1+ edema
   Neuro: wakes to voice , not following commands, moving all ext
   Labs / Radiology
   10.2 g/dL
   394 K/uL
   183 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   49 mg/dL
   103 mEq/L
   141 mEq/L
   30.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2122-3-13**]  03:25 PM
                             [**2122-3-13**]  03:40 PM
                             [**2122-3-14**]  04:47 AM
                             [**2122-3-14**]  05:05 AM
                             [**2122-3-14**]  03:11 PM
                             [**2122-3-14**]  08:45 PM
                             [**2122-3-14**]  08:55 PM
                             [**2122-3-15**]  05:00 AM
                             [**2122-3-15**]  05:33 AM
                             [**2122-3-15**]  09:28 AM
   WBC
   11.1
   8.5
   10.0
   Hct
   28.6
   26.7
   26.7
   30.2
   Plt
   364
   334
   394
   Cr
   1.9
   1.9
   1.9
   TCO2
   24
   24
   25
   25
   27
   28
   Glucose
   147
   152
   183
   Other labs: PT / PTT / INR:13.9/25.8/1.2, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:87.0 %, Lymph:8.4 %, Mono:4.3 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, LDH:523 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   1.       Respiratory Failure: Etiology is unclear infectious with
   component of DAH- has improved with high dose steroids and broad
   spectrum ABX
 no culture data to date. Will switch to Prednisone 40 mg
   today. Passed SBT, but has been agitated. We will start Nitro gtts peri
   extubation and reassess. If she fails extubation due to agitation then
   HTN would try Precidex overnight before reattempt. Suspect her
   agitation is due to high dose steroids and ICU psychosis with
   concomitant benzo and narcotics on board.
   2.           Hip Infection: on Vanco
 ID following
   3.           Renal Failure: Appreciate consultation
 likely ATN, no
   acute indication for HD
 stable Cr adequate UOP, serum Bicarb holding
   Follow up with PICC team re d/c PICC it is not drawing and she has CVL
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition: tf on hold
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-3-11**] 10:39 AM
   PICC Line - [**2122-3-11**] 01:51 PM
   Multi Lumen - [**2122-3-11**] 07:15 PM
   Arterial Line - [**2122-3-11**] 09:18 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: chlorhex,
   Communication:  with family  by Housestaff this AM will try to touch
   base in person this afternoon
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-03-16 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 80 y.o. woman presenting with fever, hypoxia, and
   dyspnea, with CXR worrisome for multifocal pneumonia.
   24 Hour Events:
   [**3-15**]
   - extubated in a.m., was agitated afterward, writhing in bed. Responded
   somewhat to ativan 1mg iv x 2 (also getting ativan for hx of neck
   muscle spasms), responded more briskly to haldol 2.5-5 mg iv q6 prn.
   QTc stable at 440.
   - renal:  ?ATN, renal fxn stable to improving, expect gradual return of
   renal fxn.
   - ID:  d/c zosyn, cont vanc, dose q48 with levels <=15, contact prior
   to discharge in order to change to po regimen for hip infxn
   suppression, signing off.  Also means that patient will likely be able
   to d/c PICC, won't have to worry about trying to salvage it.
   - nurse concerned that patient's writhing in bed could be [**2-16**] pain.  in
   response, made tylenol standing, ordered lidocaine patch for neck, and
   wrote for low dose dilaudid.  seemed to help.
   - NG tube placed and positition okay
   - pt tachy to 100, given metop 5mg IV x2
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-15**] 08:00 AM
   Infusions:
   Nitroglycerin - 1.2 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-15**] 08:17 AM
   Lorazepam (Ativan) - [**2122-3-15**] 09:29 PM
   Haloperidol (Haldol) - [**2122-3-16**] 01:55 AM
   Hydromorphone (Dilaudid) - [**2122-3-16**] 04:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 88 (63 - 98) bpm
   BP: 160/77(99) {134/53(79) - 175/124(128)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
    CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  1,576 mL
                                                                    388 mL
   PO:
   TF:
   IVF:
                                                                  1,516 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  5,460 mL
                                                                    840 mL
   Urine:
                                                                  5,460 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,884 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 640 (640 - 640) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 60%
   SpO2: 96%
   ABG: 7.38/46/86.[**Numeric Identifier 96**]/25/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 145
   Physical Examination
   Gen:  groaning, agitated.
   Neuro: pt opens eye to name, does not respond to commands
   HEENT: MMM, NC/AT
   CV: RRR s m/g/r
   Chest:  crackles bilaterally anteriorly
   Abd: +BS NT/ND, soft
   Ext: no c/c/e
   Labs / Radiology
   462 K/uL
   9.4 g/dL
   163 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   39 mg/dL
   105 mEq/L
   142 mEq/L
   28.1 %
   14.0 K/uL
        [image002.jpg]
                             [**2122-3-14**]  05:05 AM
                             [**2122-3-14**]  03:11 PM
                             [**2122-3-14**]  08:45 PM
                             [**2122-3-14**]  08:55 PM
                             [**2122-3-15**]  05:00 AM
                             [**2122-3-15**]  05:33 AM
                             [**2122-3-15**]  09:28 AM
                             [**2122-3-15**]  03:00 PM
                             [**2122-3-15**]  10:00 PM
                             [**2122-3-16**]  05:12 AM
   WBC
   10.0
   14.0
   Hct
   26.7
   30.2
   28.1
   Plt
   394
   462
   Cr
   1.9
   1.9
   1.6
   1.4
   TCO2
   24
   25
   25
   27
   28
   Glucose
   183
   150
   199
   163
   Other labs: PT / PTT / INR:14.5/24.9/1.3, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:84.9 %, Lymph:6.5 %, Mono:8.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, LDH:523 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multifocal pneumonia.
    #Hypoxia/ Diffuse Alveolar Hemmorrhage: Patient with DAH of unclear
   etiology though consideration to immune mediated vs post infectious
   diffuse alveolar damage vs bland congestion.  Multiple diagnostic tests
   pending searching for an etiology.  ANCA negativity makes Wegner
s less
   likely.  Respiratory status stable to slightly improved and weaning to
   decreased vent settings. Of note, CRP came back >300, [**Doctor First Name 1205**] neg,
   galactomannan neg
   - pt extubated [**3-15**]
   -Continue vancomycin (d1=[**3-8**], today is day 9)
   -d/c
d steroids due to AMS
   -f/u cultures, anti-GBM, cryoglobulins
   # AMS- possibly [**2-16**] steriod psychosis. Pt worsens with benzos
   - d/c steroids
   - will check daily EKG for QTc with haldol
   # HTN
 uncontrolled on Nitro gtt, need afterload reduction.
   - started labetalol 200mg [**Hospital1 **]
   - started home lisinopril 20mg QD
   - will restart amlodipine
   #Acute Kidney Injury: Cr to 1.9 today from 1.2 on admission.  Also
   there are RBC
s in UA perhaps suggesting more active sediment.
   Possible this could be part of systemic vasculitic process though
   timing continues to be odd.
   - Renal C/S thinks likely ATN and anticpate return of baseline renal
   function .
   - lasix 40 IV x1, goal  to be neg 1.5
 2 L
   #Hip Hemiarthroplasty:  s/p washout [**2122-1-17**] and was on nafcillin at
   home.
   -Nafcillin stopped as MSSA should be well covered by vanc.
   -ID has signed off but request they be re-contact[**Name (NI) **] near time of
   discharge as would prefer to send patient home on po antibiotic regimen
   -Dr. [**Last Name (STitle) 4453**] aware and has seen patient
   #CAD: s/p CABG and bioprosthetic AVR. ST depressions in V4-V5 under
   1mm.  Troponin is 0.2 and CK is 68. Likely demand ischemia in setting
   of tachycardia- both on admission and this am during episode of likely
   flash pulmonary edema.  Cardiology has seen the patient and has low
   index of suspicion for acute coronary syndrome.
   -continue with simvastatin, restarted  lisinopril, holding aspirin
   #.Hypothyroidism: Will continue on levothyroxine
   #Pain: chronic left shoulder/arm pain. Will continue with lidocaine
   patch and acetominophen
   # FEN: if pt does not tolerate NG tube will place post-pyloric tomorrow
    EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], Daughter, [**Telephone/Fax (1) 8166**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-3-11**] 10:39 AM
   PICC Line - [**2122-3-11**] 01:51 PM
   Multi Lumen - [**2122-3-11**] 07:15 PM
   Arterial Line - [**2122-3-11**] 09:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-17 06:32:00 Physician Resident Progress Note
Chief Complaint:
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multicfocal pneumonia. , who had underwent a revision of
   her R hip replacement and was at the [**Hospital **] rehab required adm to the
   micu/sicu.
   Pt. developed worsening SOB and required intubation on [**3-11**]. pt. was
   bronched at that time and found to have alveolar hemorrhage. Pt was
   extubated on [**3-15**].
   24 Hour Events:  02 sats 95-98% on 40% face mask, attempted to wean to
   NC but dropped to 88%.
   Pt remains delirious, but mental status improving.
   Less restless, continues to moan occasionally.
   Able to verbalize that she was in [**Hospital3 **], speech garbled.
   Starting to follow commands.
   Received oxycodone prn and lidocaine patch for neck pain.
   Still requiring wrist restraints to prevent pulling on central line,
   NGT, and foley cath.
   BP better controlled on labetalol
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-15**] 08:00 AM
   Vancomycin - [**2122-3-16**] 10:44 AM
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-16**] 08:23 AM
   Hydromorphone (Dilaudid) - [**2122-3-16**] 08:28 AM
   Metoprolol - [**2122-3-16**] 10:17 AM
   Furosemide (Lasix) - [**2122-3-16**] 11:40 AM
   Flowsheet Data as of  [**2122-3-17**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36
C (96.8
   HR: 76 (63 - 95) bpm
   BP: 170/64(91) {106/47(63) - 188/90(113)} mmHg
   RR: 19 (12 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,194 mL
                                                                    395 mL
   PO:
             TF:
                                                                    304 mL
                                                                    278 mL
   IVF:
                                                                  1,441 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  4,375 mL
                                                                    525 mL
   Urine:
                                                                  4,375 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,181 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.50/39/175//7
   PaO2 / FiO2: 438
   Physical Examination
   Gen:  groaning, agitated.
   Neuro: pt opens eye to name, does not respond to commands
   HEENT: MMM, NC/AT
   CV: RRR s m/g/r
   Chest:  crackles bilaterally anteriorly
   Abd: +BS NT/ND, soft
   Ext: no c/c/e
   Labs / Radiology
   393 K/uL
   10.1 g/dL
   163 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   39 mg/dL
   105 mEq/L
   142 mEq/L
   28.8 %
   13.2 K/uL
                             [**2122-3-14**]  08:45 PM
                             [**2122-3-14**]  08:55 PM
                             [**2122-3-15**]  05:00 AM
                             [**2122-3-15**]  05:33 AM
                             [**2122-3-15**]  09:28 AM
                             [**2122-3-15**]  03:00 PM
                             [**2122-3-15**]  10:00 PM
                             [**2122-3-16**]  05:12 AM
                             [**2122-3-16**]  07:19 AM
                             [**2122-3-17**]  04:53 AM
   WBC
   10.0
   14.0
   13.2
   Hct
   26.7
   30.2
   28.1
   28.8
   Plt
   394
   462
   393
   Cr
   1.9
   1.9
   1.6
   1.4
   TCO2
   25
   27
   28
   31
   Glucose
   183
   150
   199
   163
   Other labs: PT / PTT / INR:14.5/24.9/1.3, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:84.9 %, Lymph:6.5 %, Mono:8.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, LDH:523 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   80 y.o. woman presenting with fever, hypoxia, and dyspnea, with CXR
   worrisome for multicfocal pneumonia. , who had underwent a revision of
   her R hip replacement and was at the [**Hospital **] rehab required adm to the
   micu/sicu.
   Pt. developed worsening SOB and required intubation on [**3-11**]. pt. was
   bronched at that time and found to have alveolar hemorrhage. Pt was
   extubated on [**3-15**].
    #Hypoxia/ Diffuse Alveolar Hemmorrhage: Patient with DAH of unclear
   etiology though consideration to immune mediated vs post infectious
   diffuse alveolar damage vs bland congestion.  Multiple diagnostic tests
   pending searching for an etiology.  ANCA negativity makes Wegner
s less
   likely.  Respiratory status stable to slightly improved and weaning to
   decreased vent settings. Of note, CRP came back >300, [**Doctor First Name 1205**] neg,
   galactomannan neg
   - pt extubated [**3-15**]
   -Continue vancomycin (d1=[**3-8**], today is day 9)
   -d/c
d steroids due to AMS
   -f/u cultures, anti-GBM, cryoglobulins
   # AMS- possibly [**2-16**] steriod psychosis. Pt worsens with benzos
   - d/c steroids
   - will check daily EKG for QTc with haldol
   # HTN
 uncontrolled on Nitro gtt, need afterload reduction.
   - started labetalol 200mg [**Hospital1 **]
   - started home lisinopril 20mg QD
   - will restart amlodipine
   #Acute Kidney Injury: Cr to 1.9 today from 1.2 on admission.  Also
   there are RBC
s in UA perhaps suggesting more active sediment.
   Possible this could be part of systemic vasculitic process though
   timing continues to be odd.
   - Renal C/S thinks likely ATN and anticpate return of baseline renal
   function .
   - lasix 40 IV x1, goal  to be neg 1.5
 2 L
   #Hip Hemiarthroplasty:  s/p washout [**2122-1-17**] and was on nafcillin at
   home.
   -Nafcillin stopped as MSSA should be well covered by vanc.
   -ID has signed off but request they be re-contact[**Name (NI) **] near time of
   discharge as would prefer to send patient home on po antibiotic regimen
   -Dr. [**Last Name (STitle) 4453**] aware and has seen patient
   #CAD: s/p CABG and bioprosthetic AVR. ST depressions in V4-V5 under
   1mm.  Troponin is 0.2 and CK is 68. Likely demand ischemia in setting
   of tachycardia- both on admission and this am during episode of likely
   flash pulmonary edema.  Cardiology has seen the patient and has low
   index of suspicion for acute coronary syndrome.
   -continue with simvastatin, restarted  lisinopril, holding aspirin
   #.Hypothyroidism: Will continue on levothyroxine
   #Pain: chronic left shoulder/arm pain. Will continue with lidocaine
   patch and acetominophen
   # FEN: if pt does not tolerate NG tube will place post-pyloric tomorrow
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2122-3-17**] 03:25 AM 45 mL/hour via
   NGT
   Glycemic Control:  ISS
   Lines: Multi Lumen - [**2122-3-11**] 07:15 PM
   Prophylaxis:
   DVT: ?
   Stress ulcer:  IV famotidine
   Communication:  [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], Daughter, [**Telephone/Fax (1) 8166**]
   Code status: Full code
                      1. Acetaminophen 650 mg PR/PO Q4H
   13. Ipratropium Bromide MDI 6 PUFF IH QID
   2. Albuterol Inhaler 6 PUFF IH Q4H:PRN
   14. Labetalol 200 mg PO BID
   3. Amlodipine 10 mg PO DAILY
   15. Levothyroxine Sodium 100 mcg PO/NG DAILY
   4. Aspirin 81 mg PO DAILY
   16. Lidocaine 5% Patch 3 PTCH TD Q12H
   5. Calcium Carbonate 500 mg PO TID
   17. Lisinopril 20 mg PO DAILY
   6. Chlorhexidine Gluconate 0.12% Oral Rinse 15ml [**Hospital1 **]
   18. Oxycodone-Acetaminophen 1 TAB PO Q4H:PRN pain
   7. Cyanocobalamin 500 mcg PO/NG DAILY
   19. Polyethylene Glycol 17 g PO DAILY:PRN
   8. Docusate Sodium (Liquid) 100 mg PO BID
   20. Insulin SC    Sliding Scale
   9. Famotidine 20 mg IV Q24H
   21. Prochlorperazine 10 mg IV Q6H:PRN
   10. Ferrous Sulfate 325 mg NG DAILY
   22. Simvastatin 80 mg PO DAILY
   11. HYDROmorphone 0.25-0.5 mg IV Q4H:PRN
   23. Vancomycin 1000 mg IV Q48H day 1= [**3-8**]
   12. Haloperidol 2.5-5 mg IV Q6H PRN
   24. Vitamin D 800 UNIT NG DAILY

2122-03-17 14:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  80 yo F who initially presented  with fever, hypoxia,
   dyspnea and CXR worrisome for multifocal pneumonia, later while
   intubated noted to have alveolar hemorrhage. Course complicated by
   altered mental status thought to be steroid psychosis
   24 Hour Events:
   02 sats 95-98% on 40% facemast, attempted to wean to NC, but dropped to
   88%.
   Mental status improving, pt less restless, able to follow simple
   commands and answer yes/no.
   BP better controlled with labetalol, off nitro drip.
   ROS:
   Endorses nausea, and neck pain. Otherwise comfortable.
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-15**] 08:00 AM
   Vancomycin - [**2122-3-16**] 10:44 AM
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-17**] 08:16 AM
   Hydromorphone (Dilaudid) - [**2122-3-17**] 08:32 AM
   Flowsheet Data as of  [**2122-3-17**] 02:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.6
   HR: 65 (63 - 82) bpm
   BP: 123/48(67) {106/47(63) - 170/73(97)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 94% on 4L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,194 mL
                                                                  1,135 mL
   PO:
             TF:
                                                                    304 mL
                                                                    654 mL
   IVF:
                                                                  1,441 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  4,375 mL
                                                                    970 mL
   Urine:
                                                                  4,375 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,181 mL
                                                                    165 mL
   Physical Examination
   GEN: NAD, responds with nodding, no speaking
   HEENT: MMM
   CV: RRR, systolic murmur
   PULM: diffuse crackles
   ABD: soft, ND/NT, +BS
   Labs / Radiology
   393 K/uL
   10.1 g/dL
   171 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.8 mEq/L
   31 mg/dL
   100 mEq/L
   140 mEq/L
   28.8 %
   13.2 K/uL
        [image002.jpg]
                             [**2122-3-14**]  08:55 PM
                             [**2122-3-15**]  05:00 AM
                             [**2122-3-15**]  05:33 AM
                             [**2122-3-15**]  09:28 AM
                             [**2122-3-15**]  03:00 PM
                             [**2122-3-15**]  10:00 PM
                             [**2122-3-16**]  05:12 AM
                             [**2122-3-16**]  07:19 AM
                             [**2122-3-17**]  04:53 AM
                             [**2122-3-17**]  06:00 AM
   WBC
   10.0
   14.0
   13.2
   Hct
   30.2
   28.1
   28.8
   Plt
   394
   462
   393
   Cr
   1.9
   1.9
   1.6
   1.4
   1.1
   TCO2
   25
   27
   28
   31
   Glucose
   183
   150
   199
   163
   171
   Other labs: PT / PTT / INR:14.5/24.9/1.3, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:84.9 %, Lymph:6.5 %, Mono:8.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, LDH:523 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   80 yo F who initially presented with fever, hypoxia, dyspnea and CXr
   worrisome for multifocal PNA, developed respiratory distress and found
   to be in DAH s/p intubation. Pt now extubated but course complicated by
   AMS thought to be steroid psychosis.
   # Respiratory distress: On presentation, pt initially treated as
   pneumonia, then acutely developed diffuse infiltration and rest
   distress requiring intubation, on BAL found to have alveolar bleeding.
   Etiology of alveolar hemorrhage unclear
 immune mediated, vs post
   infectious, vs bland congestion. Also with component of fluid overload.
   Now extubated x 2 days, sats improving to 94% on 4LNC, CXR minimally
   worse.
   - Diagnostic tests done: CRP, [**Doctor First Name 1205**], Galactomannan, ANCA (all neg)
   - Diagnostic tests pending: cultures, anti-GBM, cryoglobulins
   - Diuresing with IV lasix with goal -2L, as yest neg balance improved
   O2 requirement and renal function
   - Stop antibiotic as afebrile x several days, SCx neg, and has received
   10d course
   - Off steroids due to mental status changes
   # AMS: Etiology thought to be steroid induced psychosis, with worsening
   due to benzos.
   - continues to improve with stopping of steroids
   - using Haldol prn agitation, although requiring very rarely.
   # HTN: Well controlled on current regimen of labetalol,  lisinopril,
   and amlodipine. Off nitro drip
   # Acute renal failure: Cr continues to improve to Cr 1.1 today with
   diuresis.  Etiology thought to be ATN.
   - Diurese today with goal neg 1-2 L
   # Hip hemiarthroplasty: s/p washout [**2122-1-17**], was on nafcilin at home,
   stopped while on Vancomycin
   - now that stopping vancomycin will tbw ID regarding home Abx regimen
   (nafcillin vs diclox) for total 6 wk course?
   # CAD: Currently asymptomatic
   - continue statin, acei, BB. Holding ASA
   # Pain: Seems to be her chronic
   - treating with lidocaine patch, percocet, dilaudid and tylenol. Will
   make some standing
   - consider Zofran for ? nausea
   ICU Care
   Nutrition:  Tube feeds via NGT
   Glycemic Control:  ISS
   Lines: (put it peripherals, central line pulled)
   20 Gauge - [**2122-3-17**] 12:45 PM
   18 Gauge - [**2122-3-17**] 01:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV famotidine
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 322**], Daughter, [**Telephone/Fax (1) 8166**]
   Code status: Full code
   Disposition: ICU

2122-03-18 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2122-3-17**] 12:44 PM
   [**3-17**]
   - OOB to chair
   - Central line out, now has 2 PIVs
   - Per ID should continue vanc until pt tolerating PO at which pt will
   revert to Nafcillin for supressive rx
   - Got additional 40mg IV lasix at 9pm to keep I/O's negative
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-3-15**] 08:00 AM
   Vancomycin - [**2122-3-16**] 10:44 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-17**] 08:16 AM
   Hydromorphone (Dilaudid) - [**2122-3-17**] 07:30 PM
   Furosemide (Lasix) - [**2122-3-17**] 09:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-18**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 71 (63 - 76) bpm
   BP: 119/100(105) {101/36(54) - 163/100(105)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
             Total In:
                                                                  1,905 mL
                                                                    427 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    323 mL
   IVF:
                                                                    290 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  3,045 mL
                                                                    800 mL
   Urine:
                                                                  3,045 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,140 mL
                                                                   -373 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   GEN: NAD, responds with nodding, no speaking
   HEENT: MMM
   CV: RRR, systolic murmur
   PULM: diffuse crackles
   ABD: soft, ND/NT, +BS
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   376 K/uL
   11.7 g/dL
   182 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.8 mEq/L
   34 mg/dL
   98 mEq/L
   139 mEq/L
   33.4 %
   13.1 K/uL
        [image002.jpg]
                             [**2122-3-15**]  05:00 AM
                             [**2122-3-15**]  05:33 AM
                             [**2122-3-15**]  09:28 AM
                             [**2122-3-15**]  03:00 PM
                             [**2122-3-15**]  10:00 PM
                             [**2122-3-16**]  05:12 AM
                             [**2122-3-16**]  07:19 AM
                             [**2122-3-17**]  04:53 AM
                             [**2122-3-17**]  06:00 AM
                             [**2122-3-18**]  03:41 AM
   WBC
   10.0
   14.0
   13.2
   13.1
   Hct
   30.2
   28.1
   28.8
   33.4
   Plt
   394
   462
   393
   376
   Cr
   1.9
   1.9
   1.6
   1.4
   1.1
   1.2
   TCO2
   27
   28
   31
   Glucose
   183
   150
   199
   163
   171
   182
   Other labs: PT / PTT / INR:14.5/24.9/1.3, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:84.9 %, Lymph:6.5 %, Mono:8.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, LDH:523 IU/L, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   80 yo F who initially presented with fever, hypoxia, dyspnea and CXr
   worrisome for multifocal PNA, developed respiratory distress and found
   to be in DAH s/p intubation. Pt now extubated but course complicated by
   AMS thought to be steroid psychosis.
   # Respiratory distress: On presentation, pt initially treated as
   pneumonia, then acutely developed diffuse infiltration and rest
   distress requiring intubation, on BAL found to have alveolar bleeding.
   Etiology of alveolar hemorrhage unclear
 immune mediated, vs post
   infectious, vs bland congestion. Also with component of fluid overload.
   Now extubated x 2 days, sats improving to 94% on 4LNC, CXR minimally
   worse.
   - Diagnostic tests done: CRP, [**Doctor First Name 1205**], Galactomannan, ANCA (all neg)
   - Diagnostic tests pending: cultures, anti-GBM, cryoglobulins
   - Diuresing with IV lasix with goal -2L, as yest neg balance improved
   O2 requirement and renal function
   - Stop antibiotic as afebrile x several days, SCx neg, and has received
   10d course
   - Off steroids due to mental status changes
   # AMS: Etiology thought to be steroid induced psychosis, with worsening
   due to benzos.
   - continues to improve with stopping of steroids
   - using Haldol prn agitation, although requiring very rarely.
   # HTN: Well controlled on current regimen of labetalol,  lisinopril,
   and amlodipine. Off nitro drip
   # Acute renal failure: Cr continues to improve to Cr 1.1 today with
   diuresis.  Etiology thought to be ATN.
   - Diurese today with goal neg 1-2 L
   # Hip hemiarthroplasty: s/p washout [**2122-1-17**], was on nafcilin at home,
   stopped while on Vancomycin
   - now that stopping vancomycin will tbw ID regarding home Abx regimen
   (nafcillin vs diclox) for total 6 wk course?
   # CAD: Currently asymptomatic
   - continue statin, acei, BB. Holding ASA
   # Pain: Seems to be her chronic
   - treating with lidocaine patch, percocet, dilaudid and tylenol. Will
   make some standing
   - consider Zofran for ? nausea
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2122-3-17**] 11:32 PM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-3-17**] 12:45 PM
   18 Gauge - [**2122-3-17**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-19 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 80 yo F who initially presented with fever, hypoxia,
   dyspnea and CXr worrisome for multifocal PNA, developed respiratory
   distress and found to be in DAH s/p intubation. Pt now extubated ([**3-15**])
   but course complicated by AMS thought to be steroid-induced psychosis.
   24 Hour Events:
   - ID asked to start Bactrim for ortho prophylaxis for 6 months course.
   Asked to set up f/u appt with [**Doctor First Name 8316**] at [**Hospital **] clinic in [**1-16**] months and
   have weekly BUN/Cr checked as outpt with results faxed to [**Doctor First Name **].
   - BP, HR well controlled. Put out well with IV lasix 40, Cr stable.
   Started on 40lasix PO BID for [**3-19**].
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-18**] 08:57 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-18**] 10:30 AM
   Hydromorphone (Dilaudid) - [**2122-3-18**] 10:30 AM
   Furosemide (Lasix) - [**2122-3-18**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-19**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 65 (60 - 80) bpm
   BP: 124/58(75) {95/37(55) - 162/73(94)} mmHg
   RR: 16 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
             Total In:
                                                                  1,624 mL
                                                                    411 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    336 mL
   IVF:
                                                                    424 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,245 mL
                                                                    250 mL
   Urine:
                                                                  2,245 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -621 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   395 K/uL
   11.4 g/dL
   155 mg/dL
   1.4 mg/dL
   32 mEq/L
   3.9 mEq/L
   41 mg/dL
   95 mEq/L
   140 mEq/L
   33.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2122-3-15**]  09:28 AM
                             [**2122-3-15**]  03:00 PM
                             [**2122-3-15**]  10:00 PM
                             [**2122-3-16**]  05:12 AM
                             [**2122-3-16**]  07:19 AM
                             [**2122-3-17**]  04:53 AM
                             [**2122-3-17**]  06:00 AM
                             [**2122-3-18**]  03:41 AM
                             [**2122-3-18**]  09:28 PM
                             [**2122-3-19**]  04:49 AM
   WBC
   14.0
   13.2
   13.1
   10.8
   Hct
   28.1
   28.8
   33.4
   33.6
   Plt
   462
   393
   376
   395
   Cr
   1.9
   1.6
   1.4
   1.1
   1.2
   1.2
   1.4
   TCO2
   28
   31
   Glucose
   150
   199
   163
   171
   182
   155
   Other labs: PT / PTT / INR:14.5/24.9/1.3, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:84.9 %, Lymph:6.5 %, Mono:8.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, LDH:523 IU/L, Ca++:9.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   80 yo F who initially presented with fever, hypoxia, dyspnea and CXr
   worrisome for multifocal PNA, developed respiratory distress and found
   to be in DAH s/p intubation. Pt now extubated but course complicated by
   AMS thought to be steroid psychosis.
   # Respiratory distress: On presentation, pt initially treated as
   pneumonia, then acutely developed diffuse infiltration and rest
   distress requiring intubation, on BAL found to have alveolar bleeding.
   Etiology of alveolar hemorrhage unclear
 immune mediated, vs post
   infectious, vs bland congestion. Also with component of fluid overload.
   Now extubated x 2 days, sats improving to 94% on 4LNC, CXR minimally
   worse.
   - Diagnostic tests done: CRP, [**Doctor First Name 1205**], Galactomannan, ANCA (all neg)
   - Diagnostic tests pending: cultures, anti-GBM, cryoglobulins
   - Diuresing with IV lasix with goal slighltly negative
 giving lasix
   40 IV x1 and will moniter
   - Off steroids due to mental status changes
   # AMS: Etiology thought to be steroid induced psychosis, with worsening
   due to benzos.
   - continues to improve with stopping of steroids
   - using Haldol prn agitation, although requiring very rarely.
    # HTN: will optimize, continue labetalol
   - cont lisinopril to 40mg QD
   -Cont amlodipine
   -cont lasix [**Hospital1 **]
   # Acute renal failure: Etiology thought to be ATN. Cr bumped slightly
   1.1 to 1.2, likely from adequete diuresis
   - Diurese today with goal slightly negative
   # Hip hemiarthroplasty: s/p washout [**2122-1-17**], was on nafcilin at home,
   stopped while on Vancomycin
   - Vanc d/c'ed, now on bactrim per ID for hip ppx
   # CAD: Currently asymptomatic
   - continue statin, acei, BB. Holding ASA
   # Pain: Seems to be her chronic
   - treating with lidocaine patch, percocet, dilaudid and tylenol.
   - now transitioning to home vicodin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2122-3-19**] 01:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-3-17**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2122-03-20 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   80 yo F who initially presented with fever, hypoxia, dyspnea and CXr
   worrisome for multifocal PNA, developed respiratory distress and found
   to be in DAH s/p intubation. Pt now extubated but course complicated by
   AMS thought to be steroid psychosis.
   24 Hour Events:
   - Pt had decr UOP from noon-5pm around 50cc -> gave 250cc bolus
   - Pt only +890cc gave lasix 40IVx1, later lytes came back w/ incr Cr to
   1.5 from 1.4
   - passed swallow test, NG taken out, soft diet
   Allergies:
   Morphine
   agitation
   hype
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Cough; facial f
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-18**] 08:57 AM
   Other ICU medications:
   Furosemide (Lasix) - [**2122-3-19**] 10:18 PM
   Other medications:
   1. Acetaminophen 650 mg PO Q6H:PRN
   15. Labetalol 200 mg PO BID
   2. Albuterol Inhaler 6 PUFF IH Q4H:PRN
   16. Levothyroxine Sodium 100 mcg PO/NG DAILY
   3. Amlodipine 10 mg PO DAILY
   17. Lidocaine 5% Patch 3 PTCH TD Q12H
   4. Aspirin 81 mg PO DAILY
   18. Lisinopril 40 mg PO DAILY
   5. Calcium Carbonate 500 mg PO TID
   19. Oxycodone-Acetaminophen 1 TAB PO Q4H:PRN pain
   20. Polyethylene Glycol 17 g PO DAILY:PRN
   7. Cyanocobalamin 500 mcg PO/NG DAILY
   8. Docusate Sodium (Liquid) 100 mg PO BID
   22. Prochlorperazine 10 mg IV Q6H:PRN
   9. Famotidine 20 mg PO Q24H
   23. Simvastatin 80 mg PO DAILY
   10. Ferrous Sulfate 325 mg NG DAILY
   11. Furosemide 40 mg PO BID
   26. Sulfameth/Trimethoprim DS 1 TAB PO BID
   27. Vitamin D 800 UNIT NG DAILY
   14. Insulin SC sliding scale
   Flowsheet Data as of  [**2122-3-20**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 72 (59 - 78) bpm
   BP: 138/57(77) {98/31(50) - 145/63(84)} mmHg
   RR: 18 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 63 Inch
                  Total In:
                                                                  1,605 mL
                  PO:
                                                                    320 mL
                  TF:
                                                                    545 mL
   IVF:
                                                                    320 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    740 mL
   Urine:
                                                                    965 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    640 mL
                                                                   -740 mL
   Physical Examination
   Labs / Radiology
   346 K/uL
   11.9 g/dL
   143 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   44 mg/dL
   96 mEq/L
   137 mEq/L
   33.3 %
   10.4 K/uL
        [image002.jpg]
                             [**2122-3-15**]  10:00 PM
                             [**2122-3-16**]  05:12 AM
                             [**2122-3-16**]  07:19 AM
                             [**2122-3-17**]  04:53 AM
                             [**2122-3-17**]  06:00 AM
                             [**2122-3-18**]  03:41 AM
                             [**2122-3-18**]  09:28 PM
                             [**2122-3-19**]  04:49 AM
                             [**2122-3-19**]  08:54 PM
                             [**2122-3-20**]  04:42 AM
   WBC
   14.0
   13.2
   13.1
   10.8
   10.4
   Hct
   28.1
   28.8
   33.4
   33.6
   33.3
   Plt
   462
   393
   376
   395
   346
   Cr
   1.6
   1.4
   1.1
   1.2
   1.2
   1.4
   1.5
   1.5
   TCO2
   31
   Glucose
   199
   163
   171
   182
   155
   121
   143
   Other labs: PT / PTT / INR:14.5/24.9/1.3, CK / CKMB /
   Troponin-T:49/2/<0.01, ALT / AST:27/48, Alk Phos / T Bili:56/0.4,
   Differential-Neuts:84.9 %, Lymph:6.5 %, Mono:8.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, LDH:523 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   80 yo F who initially presented with fever, hypoxia, dyspnea and CXr
   worrisome for multifocal PNA, developed respiratory distress and found
   to be in DAH s/p intubation. Pt now extubated but course complicated by
   AMS thought to be steroid psychosis.
   # Respiratory distress: On presentation, pt initially treated as
   pneumonia, then acutely developed diffuse infiltration and rest
   distress requiring intubation, on BAL found to have alveolar bleeding.
   Etiology of alveolar hemorrhage unclear
 immune mediated, vs post
   infectious, vs bland congestion. Also with component of fluid overload.
   Now extubated ([**3-19**]), sats improving to 99% on 4LNC.  Completed
   antibiotic course for HAP.
   - Now appears euvolemic, lasix 40 [**Hospital1 **] to continue
   - Wean O2 as tolerated
   - Off steroids due to mental status changes
   # AMS: Etiology thought to be steroid induced psychosis, with worsening
   due to benzos initially, now appears somewhat off baseline, although
   orientation improving, neuro exam nonfocal.
   - hasn
t required haldol for agitation
   -  d/c extraneous meds (dilaudid, etc)
    # HTN: will optimize, continue labetalol
   - cont lisinopril to 40mg QD
   -Cont amlodipine
   -cont lasix [**Hospital1 **]
   # Acute renal failure: Etiology thought to be ATN. Cr bumped slightly
   1.1 to 1.4, likely from adequete diuresis as well as bactrim given
   added last night
   - trend cr
   - Diurese today with goal slightly negative
   # Hip hemiarthroplasty: s/p washout [**2122-1-17**], was on nafcilin at home,
   stopped while on Vancomycin
   - Vanc d/c'ed, now on bactrim per ID for hip ppx
   # CAD: Currently asymptomatic
   - continue statin, acei, BB, ASA
   # Pain: Seems to be her chronic
   - treating with lidocaine patch, percocet, dilaudid and tylenol.
   - now transitioning to home vicodin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-3-17**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition: